US07531553B2
Preparation XXXIII: 4-(2-chloro-5-nitro-phenoxymethyl)-1-methyl-piperidine
4-(2-Chloro-5-nitro-phenoxymethyl)-piperidine (4 g, 14.8 mmol) was dissolved in CH3CN (20 ml), and formaldehyde (5.9 ml, 37% aqueous) and NaBH3CN (1.49 g, 23.68 mmol) were added. After 4 h, the mixture was concentrated in vacuo and the residue was dissolved in EtOAc, washed with brine. The EtOAc portion was dried with Na2SO4, and evaporated. The title compound was purified by column chromatography using 0-75% of a 90:10:1 (CH2Cl2:MeOH: NH4OH) solution as the eluent to yield a yellow solid. MS(MH+)=NA; Calc'd 284.09 for C13H17ClN2O3.

reactant | 4-(2-Chloro-5-nitro-phenoxymethyl)-piperidine | 14.8 mmol, 4 g | ClC1=C(OCC2CCNCC2)C=C(C=C1)[N+](=O)[O-] | C12H15ClN2O3
reactant | formaldehyde | 5.9 ml | C=O | CH2O
reactant | NaBH3CN | 23.68 mmol, 1.49 g | [BH3-]C#N.[Na+]
solvent | CH3CN | 20 ml | CC#N | C2H3N
product | 4-(2-chloro-5-nitro-phenoxymethyl)-1-methyl-piperidine | ClC1=C(OCC2CCN(CC2)C)C=C(C=C1)[N+](=O)[O-] | C13H17ClN2O3
